US05869519
(3S)-3-[(1-Benzylindole-2-Carbonyl)Alaninyl]Amino-4-Oxobutanoic Acid, t-Butyl Ester Semicarbazone
1-Benzylindole-2-carboxylic acid (477 mg, 1.9 mmol) and 3(S)-(alaninyl)amino-4-oxobutanoic acid, t-butyl ester semicarbazone (581 mg, 1.9 mmol) were dissolved in methylene chloride (8 mL) and both DMAP (232 mg, 1.9 mmol) and EDAC (498 mg, 2.6 mmol) were added to the solution under a nitrogen atmosphere at 0° C. The resultant solution was stirred for 1 hour at 0° C. and an additional 2 hours at room temperature. The reaction mixture was diluted with ethyl acetate, washed successively with saturated sodium bicarbonate solution and brine, dried over sodium sulfate, and concentrated to give a yellow foam. Flash column chromatographic purification of the foam (silica gel, methanol/methylene chloride 2-5%) afforded the title product as a white powder (570 mg, 56%). TLC: (methanol/methylene chloride:1/9, silica gel): Rf =0.38; 1H NMR (CDCl3): δ 8.60 (bs, 1H), 7.67 (dd, J=8.0, 1.1, 1H), 7.50 (d, J=8.0, 1H), 7.33-7.01 (m, 8H), 6.79 (d, J=7.4, 1H), 5.78 (s, 2H), 4.87-4.83 (m, 1H), 4.67-4.62 (m, 1H), 2.73-2.43 (m, 2H), 1.46 (d, J=7.1, 3H), 1.39 (s, 9H).

reactant | 1-Benzylindole-2-carboxylic acid | 1.9 mmol, 477 mg | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C(=O)O | C16H13NO2
reactant | 3(S)-(alaninyl)amino-4-oxobutanoic acid, t-butyl ester semicarbazone | 1.9 mmol, 581 mg | N[C@@H](C)C(=O)N[C@@H](CC(OC(C)(C)C)=NNC(=O)N)C=O | C12H23N5O4
reactant | EDAC | 2.6 mmol, 498 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.9 mmol, 232 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-3-[(1-Benzylindole-2-Carbonyl)Alaninyl]Amino-4-Oxobutanoic Acid, t-Butyl Ester Semicarbazone | 570 mg, 56% | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(OC(C)(C)C)=NNC(=O)N)C=O | C28H34N6O5
